US07981903B2
To a solution of 5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole (0.8 g, 4.12 mmol) in THF (200 mL) was added EDC hydrochloride (2.37 g, 12.4 mmol), HOBT (1.67 g, 12.4 mmol), and N,N-dipropyl-L-alanine (2.14 g, 12.4 mmol). After stirring at rt for 5 days, the reaction was diluted with ethyl acetate (100 mL), washed with saturated NaHCO3 (200 mL) and 1M NaOH (200 mL). The organic layer was separated, adsorbed onto silica gel, and purified by column chromatography (DCM to 5% MeOH/DCM) to provide N-{(1S)-1-methyl-2-[5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-2-oxoethyl}-N-propyl-1-propanamine (0.6 g, 42%). ESIMS (M+H)+=350.

reactant | 5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole | 4.12 mmol, 0.8 g | COC=1C=C2CCNC2=CC1[N+](=O)[O-] | C9H10N2O3
reactant | EDC hydrochloride | 12.4 mmol, 2.37 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 12.4 mmol, 1.67 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-dipropyl-L-alanine | 12.4 mmol, 2.14 g | C(CC)N([C@@H](C)C(=O)O)CCC | C9H19NO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-{(1S)-1-methyl-2-[5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-2-oxoethyl}-N-propyl-1-propanamine | 0.6 g, 42% | C[C@@H](C(=O)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])OC)N(CCC)CCC | C18H27N3O4
